US08486984B2
8.3 N-[4-(4-Isopropyl-benzenesulfonylamino)-indan-2-ylmethyl]-propionamide
N-(4-Amino-indan-2-ylmethyl)-propionamide (0.51 g, 2.34 mmol) was dissolved in pyridine-dichloromethane (1:2, 30 mL) and cooled to 5° C. 4-Isopropylbenzenesulfonyl chloride (0.54 g, 2.47 mmol) was added and the solution stirred at 5° C. for 3 h. Solution was evaporated, partitioned between ethyl acetate and water, and the organic phase separated and dried over MgSO4. The filtered solution was concentrated to give the product as a brown oil (0.95 g, 100%).

reactant | N-(4-Amino-indan-2-ylmethyl)-propionamide | 2.34 mmol, 0.51 g | NC1=C2CC(CC2=CC=C1)CNC(CC)=O | C13H18N2O
reactant | 4-Isopropylbenzenesulfonyl chloride | 2.47 mmol, 0.54 g | C(C)(C)C1=CC=C(C=C1)S(=O)(=O)Cl | C9H11ClO2S
solvent | pyridine dichloromethane | 30 mL | N1=CC=CC=C1.ClCCl
product | N-[4-(4-Isopropyl-benzenesulfonylamino)-indan-2-ylmethyl]-propionamide | 0.95 g, 100% | C(C)(C)C1=CC=C(C=C1)S(=O)(=O)NC1=C2CC(CC2=CC=C1)CNC(CC)=O | C22H28N2O3S
